US05872115
Step 1): To a solution of 5-fluoro-2-nitro-N-[(1-diphenylmethylpiperidin-4-yl)methyl]benzamide (2.0 g, 4.46 mmol) in DMF (10 ml) was added dropwise a solution of sodium thiomethoxide (343 mg, 4.9 mmol) in DMF (10 ml) under stirring at room temperature. After the mixture was stirred overnight, an additional sodium thiomethoxide (34 mg, 0.49 mmol) was added to the mixture. The reaction mixture was diluted with AcOEt and washed twice with H2O. The organic layer was dried over MgSO4 and evaporated to give 5-methylthio-2-nitro-N-[(1-diphenylmethylpiperidin-4-yl)methyl]benzamide as colorless powders, 1.7 g (80%): mp 179°-181° C.

reactant | 5-fluoro-2-nitro-N-[(1-diphenylmethylpiperidin-4-yl)methyl]benzamide | 4.46 mmol, 2.0 g | FC=1C=CC(=C(C(=O)NCC2CCN(CC2)C(C2=CC=CC=C2)C2=CC=CC=C2)C1)[N+](=O)[O-] | C26H26FN3O3
reactant | sodium thiomethoxide | 4.9 mmol, 343 mg | C[S-].[Na+]
reactant | sodium thiomethoxide | 0.49 mmol, 34 mg | C[S-].[Na+]
solvent | DMF | 10 ml | CN(C)C=O | C3H7NO
solvent | DMF | 10 ml | CN(C)C=O | C3H7NO
solvent | AcOEt | CCOC(=O)C | C4H8O2
product | 5-methylthio-2-nitro-N-[(1-diphenylmethylpiperidin-4-yl)methyl]benzamide | CSC=1C=CC(=C(C(=O)NCC2CCN(CC2)C(C2=CC=CC=C2)C2=CC=CC=C2)C1)[N+](=O)[O-] | C27H29N3O3S
